US03959260
21-Morpholinoacetylthio-3α-hydroxy-5α-pregn-1-ene-11,20-dione hydrochloride
21-Morpholinoacetylthio-3α-hydroxy-5α-pregn-1-ene-11,20-dione (122 mg., 0.25 mmole) was dissolved in 0.1 M hydrochloric acid (2.5 ml.) and the resulting clear solution was made up to 12 ml. by the addition of distilled water to give a 1% aqueous solution of the title compound.

reactant | 21-Morpholinoacetylthio-3α-hydroxy-5α-pregn-1-ene-11,20-dione | 0.25 mmole, 122 mg | O1CCN(CC1)CC(=O)SCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](C=C[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C27H39NO5S
reactant | water | O | H2O
reactant | hydrochloric acid | 0.1 M, 2.5 ml | Cl | ClH
product | 21-Morpholinoacetylthio-3α-hydroxy-5α-pregn-1-ene-11,20-dione hydrochloride | Cl.O1CCN(CC1)CC(=O)SCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](C=C[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | InChI=1S/C27H39NO5S.ClH/c1-26-8-7-18(29)13-17(26)3-4-19-20-5-6-21(27(20,2)14-22(30)25(19)26)23(31)16-34-24(32)15-28-9-11-33-12-10-28;/h7-8,17-21,25,29H,3-6,9-16H2,1-2H3;1H/t17-,18+,19-,20-,21+,25+,26-,27-;/m0./s1
